US06949648B2
4-Isobutoxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
To an ice-cold solution of 3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one (1.93 g, 7.0 mmol) in N,N-dimethylformamide (30 mL), sodium hydride (oiliness, content 60%, 0.42 g, 10.5 mmol) was added and the mixture was stirred at room temperature for 1 hour. Subsequently, isobutyl iodide (2.0 mL, 17.4 mmol) was added to the mixture, and the mixture was stirred at room temperature for 16 hours, and heated under reflux at 70° C. for 8 hours. The reaction solution was allowed to cool and iced water was added to the mixture, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and water and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by basic silica gel column chromatography (hexane:ethyl acetate:chloroform=3:1:1) to give the title compound (0.54 g, 23% yield).

reactant | 3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 7.0 mmol, 1.93 g | CC1=NN(C=2NC3=CC=CC=C3C(C21)=O)C2=NC=CC=C2 | C16H12N4O
reactant | sodium hydride | 10.5 mmol, 0.42 g | [H-].[Na+]
reactant | isobutyl iodide | 17.4 mmol, 2.0 mL | C(C(C)C)I | C4H9I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-Isobutoxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 0.54 g, 23% yield | C(C(C)C)OC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C20H20N4O
